US07683064B2
To a solution of acetic acid 2-bromo-6-(6-dimethylamino-1-oxo-3,4-dihydro-1H-isoquinolin-2-yl)-benzyl ester (224 mg, 0.482 mmol) in 5 mL 1,4-dioxane was added 2,3-dichloro-5,6-dicyano-p-benzoquinone (109 mg, 0.48 mmol). After stirring for 4 hours, this was partitioned between ethylacetate and 1M aq. NaOH. The organic layer was washed with water, washed with brine, dried over anhydrous magnesium sulfate, concentrated in vacuo, and purified by flash chromatography (gradient elution 40 to 50% ethylacetate/hexanes) to yield acetic acid 2-bromo-6-(6-methylamino-1-oxo-3,4-dihydro-1H-isoquinolin-2-yl)-benzyl ester (93 mg, 0.23 mmol). MS (ESI) 404.8 (M+H)+.

reactant | acetic acid 2-bromo-6-(6-dimethylamino-1-oxo-3,4-dihydro-1H-isoquinolin-2-yl)-benzyl ester | 0.482 mmol, 224 mg | BrC1=C(COC(C)=O)C(=CC=C1)N1C(C2=CC=C(C=C2CC1)N(C)C)=O | C20H21BrN2O3
reactant | 2,3-dichloro-5,6-dicyano-p-benzoquinone | 0.48 mmol, 109 mg | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | acetic acid 2-bromo-6-(6-methylamino-1-oxo-3,4-dihydro-1H-isoquinolin-2-yl)-benzyl ester | 0.23 mmol, 93 mg | BrC1=C(COC(C)=O)C(=CC=C1)N1C(C2=CC=C(C=C2CC1)NC)=O | C19H19BrN2O3
